US09029402B2
Synthesis of 4-bromo-N-methoxy-N,2-dimethylbenzamide, (D-2)
To the solution of compound 4-bromo-2-methylbenzoic acid D-1 (50 g, 0.23 mol) in DCM (500 mL) was added EDCI (48 g, 0.25 mol), HOBt (34.1 g, 0.25 mol), NMM (50.5 g, 0.50 mol) and N,O-dimethylhydroxylamine hydrochloride (24.3 g, 0.25 mol). The reaction mixture was stirred at room temperature overnight, diluted with DCM, washed with H2O (300 mL), 1 N HCl (300 mL), and saturated sodium bicarbonate solution (300 mL), dried over sodium sulfate, and concentrated to give the desired product D-2 (55 g, yield 91.6%) as yellow oil.

reactant | 4-bromo-2-methylbenzoic acid | 0.23 mol, 50 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | EDCI | 0.25 mol, 48 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.25 mol, 34.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 0.50 mol, 50.5 g | CN1CCOCC1 | C5H11NO
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.25 mol, 24.3 g | Cl.CNOC
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-N-methoxy-N,2-dimethylbenzamide | yield 91.6% | BrC1=CC(=C(C(=O)N(C)OC)C=C1)C | C10H12BrNO2
